US07122543B2
Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate
Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate (530 mg, 1.1373 mmol) was dissolved in methanol (20 ml), added to a methanolic suspension (20 ml) of 10% palladium-carbon (100 mg) and stirred for 16 hours at room temperature in a hydrogen atmosphere. The reaction solution was filtered and the filtrate was concentrated under reduced pressure to give the title compound (414 mg, 1.101 mmol, 97%).

reactant | Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoate | 1.1373 mmol, 530 mg | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C27H30O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 20 ml, 100 mg | [C].[Pd]
product | Methyl 4-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 1.101 mmol, 414 mg, 97% | COC=1C(=C(CC2=CC(=C(C(=O)OC)C=C2)O)C(=C(C1OC)OC)OC)C | C20H24O7
